US05786350
ethyl 4,6-dichloronicotinate (17 g) is boiled for 4 hours with 24% sulfuric acid (400 ml). The white crystals that separate are filtered from the boiling solution and 4-chloro-6-hydroxynicotinic acid (6 g, m.p. 299°-300° C.) is obtained; the acidic solution is left overnight in the refrigerator. The crystallized solid is collected by filtration and dried under vacuum, thus obtaining 6-chloro-4-hydroxynicotinic acid (4.6 g) m.p. 231°-233° C.

reactant | ethyl 4,6-dichloronicotinate | 17 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-6-hydroxynicotinic acid | 6 g | ClC1=CC(=NC=C1C(=O)O)O | C6H4ClNO3
